US06211215B1
In substantially the same manner as in Reference Example 31, 2-naphthalenecarboxamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(2-naphthyl)oxazole. The yield was 68%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 116-117° C.

reactant | 2-naphthalenecarboxamide | C1=C(C=CC2=CC=CC=C12)C(=O)N | C11H9NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(2-naphthyl)oxazole | yield was 68% | ClCC=1N=C(OC1)C1=CC2=CC=CC=C2C=C1 | C14H10ClNO
